US05045558
4-[1-(1-Imidazolyl)-butyl]-benzoic acid cyclohexyl ester
1 g of 4-[1-(1-imidazolyl)-butyl]-benzoic acid is converted, analogously to example 20, into the acid chloride; it is dissolved in 10 ml of methylene chloride, mixed with 360 mg of cyclohexanol and 3 ml of pyridine, after 20 hours at room temperature it is added to excess 1M hydrochloric acid and extracted with ether. The water phase is alkalized with potassium carbonate and extracted with ethyl acetate. After drying and concentration by evaporation, the residue is distilled on a bulb tube. 915 mg of the title compound is obtained as oil with a boiling point of 200° C./0.03 mbar.

reactant | 4-[1-(1-imidazolyl)-butyl]-benzoic acid | 1 g | N1(C=NC=C1)C(CCC)C1=CC=C(C(=O)O)C=C1 | C14H16N2O2
reactant | cyclohexanol | 360 mg | C1(CCCCC1)O | C6H12O
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[1-(1-Imidazolyl)-butyl]-benzoic acid cyclohexyl ester | 915 mg | C1(CCCCC1)OC(C1=CC=C(C=C1)C(CCC)N1C=NC=C1)=O | C20H26N2O2
